US03979430
2.0 Gm. of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionic acid is dissolved in 20 ml. of acetone and to the solution is added 20 ml. of N-hydrochloric acid. The mixture is refluxed for one hour, then cooled, diluted with water, and extracted with ethyl acetate. The extract is washed, dried, and evaporated to give a 90% yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid, m.p. (chloroform-hexane) 138°-139°C.; m.p. (acetone-hexane) 113°-115°C. Use of 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)acetic acid gives a similar yield of 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)acetic acid, m.p. (acetone-hexane) 148°-149.5°C.

reactant | 2-(5,5-ethylenedioxy-5H-dibenzo[a,d]cyclohepten-2-yl)propionic acid | C1OC2(C3=C(C=CC4=C2C=CC(=C4)C(C(=O)O)C)C=CC=C3)OC1 | C20H18O4
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-(5H-dibenzo[a,d]cyclohepten-5-on-2-yl)propionic acid | 90% yield | C1=C(C=CC=2C(C3=C(C=CC21)C=CC=C3)=O)C(C(=O)O)C | C18H14O3
